US07446118B2
Synthesis of 3-(7-Methoxy-1H-indazol-4-yl)-3-phenyl-acrylic acid ethyl ester (CXCVII)
Compound CXCVII was prepared from 4-Bromo-7-methoxy-1H-indazole using the procedure described for preparation of 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (Example 14).

reactant | 4-Bromo-7-methoxy-1H-indazole | BrC1=C2C=NNC2=C(C=C1)OC | C8H7BrN2O
reactant | 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(7-Methoxy-1H-indazol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C=NNC2=C(C=C1)OC)=O | C19H18N2O3
